US04005099
In the manner given in Example 4, N-[[1-[2-(o-chlorobenzoyl)phenyl]-2-[(dimethylamino)methyl]-4-methylimidazol-5-yl]methyl]phthalimide in ethanol is heated with hydrazine hydrate to give 6-(o-chlorophenyl)-1-[(dimethylamino)-methyl]-3-methyl-4H-imidazo[1,5-a][1,4]benzodiazepine.

reactant | N-[[1-[2-(o-chlorobenzoyl)phenyl]-2-[(dimethylamino)methyl]-4-methylimidazol-5-yl]methyl]phthalimide | ClC1=C(C(=O)C2=C(C=CC=C2)N2C(=NC(=C2CN2C(C=3C(C2=O)=CC=CC3)=O)C)CN(C)C)C=CC=C1 | C29H25ClN4O3
reactant | hydrazine hydrate | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 6-(o-chlorophenyl)-1-[(dimethylamino)-methyl]-3-methyl-4H-imidazo[1,5-a][1,4]benzodiazepine | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=CC=C3)C(=NC2C)CN(C)C | C21H21ClN4
